US06949567B2
3-{3-[4-(4-Sulfamoylbenzylcarbamoyl)-phenyl]-ureido}-benzimidic acid methyl ester (370 mg) was dissolved in methanolic ammonia solution (5 ml, 7 M) and refluxed for 4 h. The mixture was filtered, the filtrate concentrated in vacuo and diethylether was added. The resulting precipitate (300 mg) was filtered off. 100 mg were suspended in ethyl acetate/methanol/ammonia, filtered off, washed with ethyl acetate and ether and dried in vacuo to yield 60 mg of 4-[3-(3-carbamimidoylphenyl)-ureido]-N-(4-sulfamoylbenzyl)-benzamide.

reactant | 3-{3-[4-(4-Sulfamoylbenzylcarbamoyl)-phenyl]-ureido}-benzimidic acid methyl ester | 370 mg | COC(C1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)C(NCC1=CC=C(C=C1)S(N)(=O)=O)=O)=N | C23H23N5O5S
reactant | ammonia | 7 M, 5 ml | N | H3N
product | 4-[3-(3-carbamimidoylphenyl)-ureido]-N-(4-sulfamoylbenzyl)-benzamide | 60 mg | C(N)(=N)C=1C=C(C=CC1)NC(NC1=CC=C(C(=O)NCC2=CC=C(C=C2)S(N)(=O)=O)C=C1)=O | C22H22N6O4S
